Netlist to Test the Xyce Resistor Model
*********************************************************************
* Tier No.:	1                                               
* Description:  Circuit to demonstrate the validity of the 
*               the linear resistor model implemented in Xyce. 
* Input: VIN=0-5V DC 
* Output: Current through R1
* Circuit Elements: R1
* Analysis:     
*	A DC voltage source, in parallel with a 1K Ohm resistor,
*	is swept from 0-5V in 1V increments.  The measured output
*	is the current through the resistor.  This is calculated
*	using Ohm's Law (Voltage=Current*Resistance, V=IR), which
*	yields a linear I-V characteristics for a resistor.
*
*			V(volts)  |  I(mA)
*			  0       |    0
*			  1       |    1
*			  2       |    2
*			  3       |    3
*			  4       |    4
*			  5       |    5
* 
* Addendum:
* The purpose of this test is to add temperature dependence to the 
* simple resistor tests.  As here, this should produce identical output
* to the resistor test in the test suite.
* If the options are changed to TEMP=-55, the resistance is computed
* by 
*   R=Rnom*(1+tc1*(t-tnom)+tc2*(t-tnom)**2
*
*  For T=-55, R is then 938.4443 ohms, which should lead to
*  an I-V plot of:
*            V(1)      I(V1)
*            ----      -----
*             0.0000   0.0000
*             1.0000   1.0656 mA
*             2.0000   2.1312 mA
*             3.0000   3.1968 mA
*             4.0000   4.2624 mA
*             5.0000   5.3280 mA
*
*********************************************************************** 
R1 1 0 1K RMODEL
V1 1 0 5V
.DC V1 0 5V 1V
.PRINT DC V(1) I(V1)
.OPTIONS DEVICE TEMP=-55
.MODEL RMODEL R (TC1=0.0007325 TC2=-2.217E-07)  
.END
